US06046213
To a mixture of aluminum chloride (45.8 g, 0.343 mol) in methylene chloride (140 mL) was added propionyl chloride (10.85 mL, 124.9 mmol) all at once followed by 2-fluorophenol (5.57 mL, 62.44 mmol in 25 mL of methylene chloride with a 10 mL rinse). The mixture was gently refluxed 5 h, cooled to ambient temperature and poured onto ice. The phases were separated and the aqueous layer was extracted with methylene chloride. The combined organic layer was washed with aqueous bicarbonate and brine. The organic layer was dried over calcium sulfate and concentrated to give 11.43 g (82%) of 4-propionyl-2-fluorophenyl propionate as a clear tan oil which was used without characterization.

reactant | aluminum chloride | 0.343 mol, 45.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | propionyl chloride | 124.9 mmol, 10.85 mL | C(CC)(=O)Cl | C3H5ClO
reactant | 2-fluorophenol | FC1=C(C=CC=C1)O | C6H5FO
solvent | methylene chloride | 140 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 4-propionyl-2-fluorophenyl propionate | 11.43 g, 82% | C(CC)(=O)OC1=C(C=C(C=C1)C(CC)=O)F | C12H13FO3
